US08686022B2
N-(3-amino-5-sec-butyl-2-methoxy-phenyl)-methanesulphonamide
1.46 g of 5-sec-butyl-2-methoxy-1,3-diamino-benzene are dissolved in 20 ml dichloromethane, combined with 1.21 ml of pyridine and cooled to 0° C. 600 μl of methanesulphonic acid chloride are added, the mixture is allowed to come up to ambient temperature and stirred for 2 hours. The solvents are eliminated in vacuo and the residue is chromatographed on silica gel (cyclohexane/ethyl acetate 80:20 to 20:80).

reactant | 5-sec-butyl-2-methoxy-1,3-diamino-benzene | 1.46 g | C(C)(CC)C=1C=C(C(=C(C1)N)OC)N | C11H18N2O
reactant | pyridine | 1.21 ml | N1=CC=CC=C1 | C5H5N
reactant | methanesulphonic acid chloride | 600 μl | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | N-(3-amino-5-sec-butyl-2-methoxy-phenyl)-methanesulphonamide | NC=1C(=C(C=C(C1)C(C)CC)NS(=O)(=O)C)OC | C12H20N2O3S
